US07183292B2
Step A—Preparation of 8-(N-Benzyl-N-methylamino)octan-1-ol
From 8-Chlorooctan-1-ol: A 2-L flask was charged with benzylmethylamine (270 g, 2.23 mol), sodium carbonate (157 g, 1.48 mol), sodium iodide (11.1 g, 0.074 mol), 8-chlorooctanol (122 g, 0.74 mol) and acetonitrile (1000 mL) and the resulting suspension was stirred at 80° C. for 20–30 h. The reaction mixture was then concentrated to a volume of about 500 mL and water (600 mL) and tert-butyl methyl ether (1000 mL) were added. The MTBE layer was then separated and washed with water (500 mL). The MTBE solution was concentrated by distillation under vacuum to provide an oil and the oil was then further concentrated by distillation under high vacuum to remove excess benzylmethylamine. N-methyl-2-pyrrolidone (300 mL) was then added to the remaining oil and this solution concentrated by distillation under high vacuum to provide an oil. The oil was dissolved in MTBE (1000 mL) and the resulting solution was washed with water (2×500 mL), brine (500 mL), dried with sodium sulfate (100 g), filtered and concentrated by distillation to afford the title compound as an oil (178 g, 96% yield, >95% purity).

reactant | 8-Chlorooctan-1-ol | ClCCCCCCCCO | C8H17ClO
reactant | benzylmethylamine | 2.23 mol, 270 g | C(C1=CC=CC=C1)CN | C8H11N
reactant | sodium carbonate | 1.48 mol, 157 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.074 mol, 11.1 g | [I-].[Na+]
reactant | 8-chlorooctanol | 0.74 mol, 122 g | ClCCCCCCCCO | C8H17ClO
reactant | acetonitrile | 1000 mL | C(C)#N | C2H3N
solvent | MTBE | 1000 mL | CC(C)(C)OC | C5H12O
product | 8-(N-Benzyl-N-methylamino)octan-1-ol | 178 g, 96% yield | C(C1=CC=CC=C1)N(C)CCCCCCCCO | C16H27NO
